US09428499B2
Step-b Preparation of (3-aminophenyl)(morpholino)methanone
To a solution of morpholino(3-nitrophenyl)methanone (2 g, 8.47 mmol) in Ethyl acetate (40 ml) was added tin(II) chloride dehydrate (7.64 g, 33.9 mmol). Resulting reaction mixture was stirred at RT for 17 h. The reaction mixture was neutralized with NaOH (2N), the mixture was filtered and the filtrate was extracted with Ethyl acetate (250 ml×2). The combined organic layer was washed with brine, dried over sodium sulphate and concentrated under vacuum to give the title product (1.4 g).

reactant | morpholino(3-nitrophenyl)methanone | 8.47 mmol, 2 g | O1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H12N2O4
reactant | tin(II) chloride | 33.9 mmol, 7.64 g | [Sn](Cl)Cl
reactant | NaOH | 2N | [OH-].[Na+]
solvent | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (3-aminophenyl)(morpholino)methanone | 1.4 g | NC=1C=C(C=CC1)C(=O)N1CCOCC1 | C11H14N2O2
